US09102688B2
General Procedure 108: 5-Nitroquinoxaline (Intermediate 481)
Oxaldehyde (40% in water; 1.43 ml, 31.3 mmol) was added to a solution of 3-nitro-o-phenylene-diamine (600 mg, 3.9 mmol) in EtOH (15 ml) and the mixture was heated at 85° C. for 2 h. The solvent was removed in vacuo, the residue was diluted in water and the aqueous phase was extracted with DCM. The organic phase was dried (Na2SO4) and concentrated in vacuo. The crude residue was purified by column chromatography with DCM/MeOH (99:1) as the eluent to give the title compound (666 mg, 97%).

reactant | Oxaldehyde | 31.3 mmol, 1.43 ml | C(=O)C=O | C2H2O2
reactant | 3-nitro-o-phenylene-diamine | 3.9 mmol, 600 mg | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
solvent | EtOH | 15 ml | CCO | C2H6O
product | 5-Nitroquinoxaline | 666 mg, 97% | [N+](=O)([O-])C1=C2N=CC=NC2=CC=C1 | C8H5N3O2
